US05045550
A solution of 4-(4-pyridinyl)-1-butanol (Mayer J. M and Testa, B., Helv. Chim. Acta 65, pages 1868-1884 (1982)) (4.20 g, 27.7 mmol) in 30 mL of chloroform is cooled to 0° C. and treated with thionyl chloride (6.60 g, 55.54 mmol) in 30 mL of chloroform. The reaction is allowed to warm to room temperature over 15 hours. The volatiles are removed in vacuo. The residue is cooled to 0° C. and treated with 50 mL of cold 10% sodium hydroxide solution and the mixture is extracted with three 100-mL portions of chloroform. The combined organic extracts are dried over sodium sulfate and the solvents are removed under reduced pressure to give 4.25 g of 4-(4-pyridinyl)-1-butylchloride as a brown oil.

reactant | 4-(4-pyridinyl)-1-butanol | 27.7 mmol, 4.20 g | N1=CC=C(C=C1)CCCCO | C9H13NO
reactant | thionyl chloride | 55.54 mmol, 6.60 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-pyridinyl)-1-butylchloride | 4.25 g | N1=CC=C(C=C1)CCCCCl | C9H12ClN
